US07018988B2
(2S,4EZ)-N2-cyclopropyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, 1-isocyanato-3-methoxybenzene, and cyclopropylamine the title compound was obtained in 45% purity by LC/MS. MS(ESI+): m/z=491.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | 1-isocyanato-3-methoxybenzene | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2S,4EZ)-N2-cyclopropyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide | C1(CC1)NC(=O)[C@H]1N(CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)NC1=CC(=CC=C1)OC | C23H24Cl2N4O4
